US07326791B2
N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-[(pyridin-4-yl)carbonylamino]pentyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from N-[(1S)-5-amino-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, PFTU, diisopropylethylamine, and pyridine-4-carboxylic acid in dimethylsulfoxide. HPLC-MS results: retention time: 2.02 minutes; C31H33ClN6O3 (573.10); mass spectrum: (M−H)−=572.

reactant | N-[(1S)-5-amino-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | NCCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C25H30ClN5O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyridine-4-carboxylic acid | N1=CC=C(C=C1)C(=O)O | C6H5NO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-5-[(pyridin-4-yl)carbonylamino]pentyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCCCNC(=O)C2=CC=NC=C2)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C31H33ClN6O3
